US08835472B2
N-(1-(4-((2-Chloropyrimidin-5-yl)ethynyl)phenyl)propan-2-yl)acetamide
To 1.20 g (5.96 mmol) N-(1-(4-ethynylphenyl)propan-2-yl)acetamide (I58.3) in 10 mL THF are added 1.43 g (5.96 mmol) 2-chloro-5-iodopyrimidine, 418 mg (0.60 mmol) bis(triphenylphosphine)dichloropalladium, 56.8 mg (0.30 mmol) CuI and 2.03 mL (11.9 mmol) DIPEA. The reaction mixture is stirred at r.t. for 4 h. The solvent is removed in vacuo and the residue is purified by column chromatography (silica gel, DCM/MeOH 98/2).

reactant | N-(1-(4-ethynylphenyl)propan-2-yl)acetamide | 5.96 mmol, 1.20 g | C(#C)C1=CC=C(C=C1)CC(C)NC(C)=O | C13H15NO
reactant | 2-chloro-5-iodopyrimidine | 5.96 mmol, 1.43 g | ClC1=NC=C(C=N1)I | C4H2ClIN2
reactant | DIPEA | 11.9 mmol, 2.03 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)dichloropalladium | 0.60 mmol, 418 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.30 mmol, 56.8 mg | [Cu]I
product | N-(1-(4-((2-Chloropyrimidin-5-yl)ethynyl)phenyl)propan-2-yl)acetamide | ClC1=NC=C(C=N1)C#CC1=CC=C(C=C1)CC(C)NC(C)=O | C17H16ClN3O
